US05789406
A solution of 1.76 g of 4-fluorophenyl isocyanate in 20 ml of dimethylformamide is added over 30 minutes to a solution of 2 g of 8-amino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one hydrochloride, 20 ml of dimethylformamide and 1.3 g of triethylamine and stirring is carried out for 12 hours at a temperature in the region of 20° C. The reaction mixture is filtered and the insoluble material is washed with dimethylformamide (2×10 ml) and then with water (3×15 ml) and dried in the air. The crude product is then triturated in 30 ml of dimethylformamide, filtered, washed with water and then with isopropyl ether and dried at 60° C. under vacuum (1 mm Hg, 0.13 kPa). There are obtained 1.5 g of 8-[3-(4-fluoro-phenyl)ureido]-5H,10H-imidazo[1,2-a]indeno[1,2-e]-pyrazine-4-one in the form of a beige solid melting above 260° C. (Analysis, % calculated C: 64.00, H: 3.76, F: 5.06, N: 18.66, O: 8.52, % found C: 64.0, H: 3.8, N: 19.0).

reactant | 4-fluorophenyl isocyanate | 1.76 g | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | 8-amino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one hydrochloride | 2 g | Cl.NC1=CC=2CC3=C(NC(C=4N3C=CN4)=O)C2C=C1
reactant | triethylamine | 1.3 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 8-[3-(4-fluoro-phenyl)ureido]-5H,10H-imidazo[1,2-a]indeno[1,2-e]-pyrazine-4-one | 1.5 g | FC1=CC=C(C=C1)NC(NC1=CC=2CC3=C(NC(C=4N3C=CN4)=O)C2C=C1)=O | C20H14FN5O2
